US04983679
A. Preparation of bis(2,4-dichlorophenyl)terephthalate (DCPT)
The nitrogen-purged apparatus described in Example 17A for the preparation of DCPSeb was charged with 300 ml of molecular sieves-dried pyridine and 20.3 g of terephthaloyl chloride (0.10 moles, MW=203.0, Aldrich, 97%), which gave a cloudy, yellow mixture. A solution of 32.6 g of 2,4-dichlorophenol (0.20 moles) in 100 ml of dry pyridine was dripped into the stirred mixture over 15 min, causing a 1.3° C. exotherm. The mixture thickened and turned white. It was stirred 6 h more and left unstirred overnight. The mixture was slightly acidified with 10% aq HCl, the crude product isolated from it by vacuum filtration, then rinsed twice with ethanol on the funnel and dried on the funnel to 62 g of slightly wet solid. The product gave a hazy solution in 1200 ml of hot THF, which was filtered hot. After 2 h, a first crop of recystallized solid was isolated by vacuum filtration and rinsed with a minimum of THF. More solids appeared in the filtrate after concentration to 200 ml. A second crop was taken as above after crystallization. The 2 crops were dried on their respective filtration funnels and then overnight at room temperature in a vacuum oven with a slight nitrogen bleed. The combined weight, 27.1 g, was 60% of the theoretical 45.6 g. Elemental analysis is consistent with theory. Calcd. for C20H10O4Cl4 : C, 52.7; H, 2.2; Cl, 31.1. Found: C, 52.8; H. 2.2; Cl, 31.5.

reactant | terephthaloyl chloride | 0.10 moles, 20.3 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | 2,4-dichlorophenol | 0.20 moles, 32.6 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | HCl | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | bis(2,4-dichlorophenyl)terephthalate | ClC1=C(C=CC(=C1)Cl)OC(C1=CC=C(C(=O)OC2=C(C=C(C=C2)Cl)Cl)C=C1)=O | C20H10Cl4O4
